US08138181B2
Step 1B: Preparation of 6-fluoro-2-methyl-8-(triisopropylsilyloxy)quinoline:
6-Fluoro-2-methylquinolin-8-ol (19.0 g, 107 mmol) was dissolved in methylene chloride (300 mL) and treated with 1H-imidazole (10.9 g, 160 mmol) and triisopropylsilyl trifluoromethanesulfonate (33.1 ml, 123 mmol). The reaction was stirred at ambient temperature for 13 hours. The reaction mixture was quenched with saturated NH4Cl and separated. The organic layer was washed twice with saturated NH4Cl, dried over Na2SO4 and concentrated in vacuo (35 g).

reactant | 6-Fluoro-2-methylquinolin-8-ol | 107 mmol, 19.0 g | FC=1C=C2C=CC(=NC2=C(C1)O)C | C10H8FNO
reactant | 1H-imidazole | 160 mmol, 10.9 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl trifluoromethanesulfonate | 123 mmol, 33.1 ml | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 6-fluoro-2-methyl-8-(triisopropylsilyloxy)quinoline | FC=1C=C2C=CC(=NC2=C(C1)O[Si](C(C)C)(C(C)C)C(C)C)C | C19H28FNOSi
